US07605170B2
(4,4-Dimethyl-1,1-dioxido-1,2,5-thiadiazolidin-2-yl)triphenylphosphonium (172 mg, 0.420 mmol) was added to a solution of 3-endo-hydroxy-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (95 mg, 0.42 mmol), and 4′-trifluoromethylbiphenyl-3-ol (50 mg, 0.21 mmol) in THF (2 mL). The reaction mixture was stirred for 18 hat ambient temperature. Volatiles were removed under reduced pressure. The resultant material was dissolved in DCM (1 mL) and TFA (1 mL) was added. The reaction mixture was stirred at ambient temperature for 4 h. Volatiles were removed under reduced pressure, the crude product dissolved in methanol (2 mL) and the solution loaded onto a SCX cartridge (5 g). The cartridge was eluted with methanol (3×10 mL) to remove triphenylphosphine oxide. Elution with ammonia in methanol (2M, 10 mL) followed by evaporation in vacuo afforded crude 3-(4′-trifluoromethylbiphenyl-3-yloxy)-8-azabicyclo[3.2.1]octane as an oil. The crude material was then purified by preparative LCMS to afford 3-exo-(4′-trifluoromethylbiphenyl-3-yloxy)-8-azabicyclo[3.2.1]octane as the trifluoroacetic acid salt (36.9 mg, 0.080 mmol, 38%) M.S. (ESI) (m/z): 348 [M+H]+.

reactant | (4,4-Dimethyl-1,1-dioxido-1,2,5-thiadiazolidin-2-yl)triphenylphosphonium | 0.420 mmol, 172 mg | CC1(CN(S(N1)(=O)=O)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 4′-trifluoromethylbiphenyl-3-ol | 0.21 mmol, 50 mg | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)O)(F)F | C13H9F3O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(4′-trifluoromethylbiphenyl-3-yloxy)-8-azabicyclo[3.2.1]octane | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)OC1CC2CCC(C1)N2)(F)F | C20H20F3NO
